US07842688B2
b) 3-(2,5-Difluorophenylamino)propan-1-ol
A solution of 0.185 g of N-(2,5-difluorophenyl)-3-hydroxypropionamide in 3 ml of tetrahydrofuran is added dropwise at room temperature to a suspension of 0.074 g of lithium aluminium hydride in 6 ml of anhydrous tetrahydrofuran. The reaction mixture is stirred at room temperature over 12 hours and subsequently hydrolysed with 0.13 ml of water followed by 0.13 ml of 1M NaOH. The mixture is filtered through Hyflo and the filtrate is washed with 10 ml of brine. The organic phase is dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow liquid from the residue by means of flash chromatography (SiO2 60F). Rf=0.28 (1:1 EtOAc-heptane); Rt=3.39.

reactant | N-(2,5-difluorophenyl)-3-hydroxypropionamide | 0.185 g | FC1=C(C=C(C=C1)F)NC(CCO)=O | C9H9F2NO2
reactant | lithium aluminium hydride | 0.074 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.13 ml | O | H2O
reactant | NaOH | 1M, 0.13 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-(2,5-Difluorophenylamino)propan-1-ol | FC1=C(C=C(C=C1)F)NCCCO | C9H11F2NO
